US08404684B2
20b) 5-(2,6-Dimethyl-pyridin-4-yl)-4-methyl-thiazol-2-ylamine
To a stirred solution of 5-(2,6-Dimethyl-pyridin-4-yl)-4-methyl-thiazol-2-ylamine hydrobromide (3.29 g, 11 mmol) in methanol (30 ml) is added sodium methoxide (2 ml of a 30% solution in methanol, 11 mmol). The resulting mixture is filtered through Celite™ filter material and concentrated in vacuo to yield the titled compound.

reactant | 5-(2,6-Dimethyl-pyridin-4-yl)-4-methyl-thiazol-2-ylamine hydrobromide | 11 mmol, 3.29 g | Br.CC1=NC(=CC(=C1)C1=C(N=C(S1)N)C)C
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 5-(2,6-Dimethyl-pyridin-4-yl)-4-methyl-thiazol-2-ylamine | CC1=NC(=CC(=C1)C1=C(N=C(S1)N)C)C | C11H13N3S
